US07531553B2
Step B: 4-(6,7-Dimethoxyquinolin-4-yloxy)-benzene-1,2-diamine
4-(3,4-Dinitrophenoxy)-6,7-dimethoxyquinoline (Step a, 0.256 g) was dissolved in THF (40 mL) and HOAc (1 mL) was added followed by zinc dust (1.3 g). Mixture was stirred at RT for 3 h and filtered through a Celite® pad. Solvent was evaporated and residue was washed with NaOH 1 M and extracted with EtOAc. The organic phase was dried, filtered and evaporated to give the title compound.

reactant | 4-(3,4-Dinitrophenoxy)-6,7-dimethoxyquinoline | [N+](=O)([O-])C=1C=C(OC2=CC=NC3=CC(=C(C=C23)OC)OC)C=CC1[N+](=O)[O-] | C17H13N3O7
reactant | HOAc | 1 mL | CC(=O)O | C2H4O2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
catalyst | zinc | 1.3 g | [Zn] | Zn
product | 4-(6,7-Dimethoxyquinolin-4-yloxy)-benzene-1,2-diamine | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C=C(C(=CC1)N)N | C17H17N3O3
